US03950333
2-Chloromethylpyrazine is reacted with the sodium salt of ethylene glycol to give 2-(2-hydroxyethoxymethyl)pyrazine which is treated with thionyl chloride to give 2-(2-chloroethoxymethyl)pyrazine. Using this intermediate in place of 4-(3-chloropropoxy)methylimidazole in the procedure of Example 22 gives the title compound.

reactant | 2-Chloromethylpyrazine | ClCC1=NC=CN=C1 | C5H5ClN2
reactant | sodium | [Na] | Na
reactant | ethylene glycol | C(CO)O | C2H6O2
product | 2-(2-hydroxyethoxymethyl)pyrazine | OCCOCC1=NC=CN=C1 | C7H10N2O2
